// half_adder.scs - CMOS Half Adder
// SUM = A ^ B, CARRY = A & B
// Run: spectre half_adder.scs -raw half_adder.raw

simulator lang=spectre

parameters vdd_val=1.8

// MOSFET Models
model nch mos1 type=n vto=0.4 kp=120u
model pch mos1 type=p vto=-0.4 kp=40u

// Supply
V_VDD (vdd 0) vsource dc=vdd_val

// Inputs - cycle through all 4 combinations
// t=5ns:  A=0, B=0
// t=15ns: A=1, B=0
// t=25ns: A=0, B=1
// t=35ns: A=1, B=1
V_A (a 0) vsource type=pulse val0=0 val1=vdd_val delay=10n rise=100p fall=100p width=10n period=20n
V_B (b 0) vsource type=pulse val0=0 val1=vdd_val delay=20n rise=100p fall=100p width=20n period=40n

// Subcircuits
subckt inverter (in out vdd)
    MP0 (out in vdd vdd) pch w=2u l=1u
    MN0 (out in 0 0) nch w=1u l=1u
ends inverter

subckt nand2 (a b out vdd)
    MP0 (out a vdd vdd) pch w=2u l=1u
    MP1 (out b vdd vdd) pch w=2u l=1u
    MN0 (out a mid 0) nch w=2u l=1u
    MN1 (mid b 0 0) nch w=2u l=1u
ends nand2

subckt and2 (a b out vdd)
    X_NAND (a b n_out vdd) nand2
    X_INV (n_out out vdd) inverter
ends and2

subckt xor2 (a b out vdd)
    X_N1 (a b n1 vdd) nand2
    X_N2 (a n1 n2 vdd) nand2
    X_N3 (b n1 n3 vdd) nand2
    X_N4 (n2 n3 out vdd) nand2
ends xor2

subckt half_adder (a b sum carry vdd)
    X_XOR (a b sum vdd) xor2
    X_AND (a b carry vdd) and2
ends half_adder

// Half Adder
X_HA (a b sum carry vdd) half_adder

// Analysis
tran_test tran stop=60n

save sum carry a b
